US05612377
Under a nitrogen atmosphere, a flask was charged with sodium hydride (0.29 g 60% NaH in mineral oil, 7.3 mmole). The mineral oil was washed from the sodium hydride using several portions of hexanes. N,N-Dimethylformamide (60 mL) was added followed by the slow addition of a solution of 1-benzyloxy-3-methyl-3-phenylurea (1.69 g, 6.6 mmole) in N,N-dimethylformamide (40 mL). Hydrogen evolution was observed. After about 30 minutes methyl iodide (480 μL) was added then the reaction was stirred at ambient temperature for about 1.5 hours. The reaction was quenched with water (about 65 mL). The aqueous layer was salted then extracted with diethyl ether (4×80 mL). The extracts were combined, dried over magnesium sulfate then concentrated to provide crude product as an oil. The crude product was purified by silica gel chromatography (5:1 hexanes:ethyl acetate) to provide 1.54 g of 1-benzyloxy-1,3-dimethyl-3-phenylurea.

reactant | sodium hydride | 7.3 mmole, 0.29 g | [H-].[Na+]
reactant | 1-benzyloxy-3-methyl-3-phenylurea | 6.6 mmole, 1.69 g | C(C1=CC=CC=C1)ONC(=O)N(C1=CC=CC=C1)C | C15H16N2O2
reactant | Hydrogen | [H][H] | H2
reactant | methyl iodide | 480 μL | CI | CH3I
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-benzyloxy-1,3-dimethyl-3-phenylurea | 1.54 g | C(C1=CC=CC=C1)ON(C(=O)N(C1=CC=CC=C1)C)C | C16H18N2O2
